US06624117B1
Preparation of N-(Benzenesulphonyl)-N′-(3-p-toluenesulphonyloxyphenyl)urea
To a stirred solution of 5.65 g m-aminophenol in 45m-acetonitrile was added dropwise 9.5 g benzenesulphonylisocyanate such that the temperature was maintained at <40° C. The mixture was stirred for one hour at room temperature and allowed to stand overnight. To the reaction was then added 25ml water and 5.35 g 47% caustic soda and the reaction was heated to 55-60° C. To this was added, over two hours, 9.93 g p-toluenesulphonylchloride with simultaneous addition of 47% caustic soda so as to maintain the pH between 10 and 11. After two hours at 60° C. the reaction mass was neutralised with hydrochloric acid to produce a thick white precipitate of the desired product. This was isolated by filtration and washed with water to give after drying 21.1 g of product, melting point 162-170° C.

reactant | m-aminophenol | 5.65 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | benzenesulphonylisocyanate | 9.5 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
reactant | caustic soda | 5.35 g | [OH-].[Na+]
reactant | p-toluenesulphonylchloride | 9.93 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25ml | O | H2O
product | N-(Benzenesulphonyl)-N′-(3-p-toluenesulphonyloxyphenyl)urea | C1(=CC=CC=C1)S(=O)(=O)NC(=O)NC1=CC(=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C20H18N2O6S2
